US03987047
11-Chloro-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid phenyl ester
A solution of 1.2 gm (7.7 millimols) of phenyl chloroformate in 20 ml of methylene chloride was added dropwise to a mixture of 2 gm (7.7 millimols) of 3-ethyl-11-chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline and 15 ml of methylene chloride at 5° C. After standing overnight, the resulting mixture was diluted with ether to double its volume and was then suction-filtered. The filter cake was recrystallized from acetone.

reactant | phenyl chloroformate | 7.7 millimols, 1.2 gm | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 3-ethyl-11-chloro-1,2,4,5-tetrahydro-3H-azepino[4,5-b]quinoline | 7.7 millimols, 2 gm | C(C)N1CCC2=NC=3C=CC=CC3C(=C2CC1)Cl | C15H17ClN2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 11-Chloro-1,2,4,5-tetrahydro-3-azepino[4,5-b]quinoline-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)Cl | C20H17ClN2O2
